US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-tert-butylaniline (51.0 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-[4-(1,1-dimethylethyl)phenyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (21.1 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-tert-butylaniline | 51.0 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-[4-(1,1-dimethylethyl)phenyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 21.1 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC2=CC=C(C=C2)C(C)(C)C)=O)C#N | C26H35FN4O2
